US05478858
To a cold (ice bath) solution of 4-fluoro-7-methylbenzimidazole (734 mg) in concentrated sulfuric acid (10 mL) is added dropwise concentrated nitric acid (0.22 mL) over 1 hour. The mixture is stirred an additional 15 minutes in the ice bath, then poured in a mixture of crushed ice (20 mL) and ammonium hydroxide (20 mL). The resulting mixture is extracted with ethyl acetate. The extract is dried over magnesium sulfate, filtered and rotary evaporated to afford 7-fluoro-4-methyl-5-nitrobenzimidazole as a pale yellow solid.

reactant | 4-fluoro-7-methylbenzimidazole | 734 mg | FC1=CC=C(C=2N=CNC21)C | C8H7FN2
reactant | nitric acid | 0.22 mL | [N+](=O)(O)[O-] | HNO3
reactant | ammonium hydroxide | 20 mL | [OH-].[NH4+]
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
product | 7-fluoro-4-methyl-5-nitrobenzimidazole | FC1=CC(=C(C2=C1N=CN2)C)[N+](=O)[O-] | C8H6FN3O2
